US05344955
To a 250 ml flask is charged 6.6 gm (0.1 mole) of malononitrile, 8.9 gm (0.1 mole) of sodium dicyanamide and 40 ml of dimethyl sulfoxide. The stirred mixture is heated to 140° C. and held for 1.5 hours; then cooled to about room temperature. Then 150 ml 2-butanol is added and the stirred mixture is cooled in an ice bath. The solids are filtered, washed with 2-butanol and dried. There is obtained 12.6 gm of 1-amino-1-cyanamido-2,2-dicyanoethylene, sodium salt, 72.3% pure or a 58.8% yield.

reactant | malononitrile | 0.1 mole, 6.6 gm | C(CC#N)#N | C3H2N2
reactant | sodium dicyanamide | 0.1 mole, 8.9 gm | [N-](C#N)C#N.[Na+]
reactant | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | 2-butanol | 150 ml | CC(CC)O | C4H10O
product | 1-amino-1-cyanamido-2,2-dicyanoethylene | 12.6 gm, 58.8% yield | NC(=C(C#N)C#N)NC#N | C5H3N5
